US07417060B2
To a solution of 3-(4-bromophenyl)propanoic acid (15.0 g) in thionyl chloride (24.5 g) was added catalytic amount of N,N-dimethylformamide (one drop) and refluxed for 1.5 hours under nitrogen atmosphere. After cooling to room temperature, the reaction mixture was poured slowly into 28% aqueous ammonium hydroxide solution (150 ml) at 0° C. The mixture was extracted with ethyl acetate, washed with water and brine and dried over magnesium sulfate. Filtration followed by evaporation under reduced pressure gave 3-(4-bromophenyl)propanamide (13.7 g) as a white solid.

reactant | 3-(4-bromophenyl)propanoic acid | 15.0 g | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | ammonium hydroxide | 150 ml | [OH-].[NH4+]
solvent | thionyl chloride | 24.5 g | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 3-(4-bromophenyl)propanamide | 13.7 g | BrC1=CC=C(C=C1)CCC(=O)N | C9H10BrNO
